US05618833
A) 3-Methoxypentane-1,5-diol
25 ml of methyl trifluoromethylsulfonate are added to a solution of 30 g of diethyl 3-hydroxyglutarate and 33 ml of 2,6-di-tert-butylpyridine in 500 ml of DCM and the mixture is refluxed for 5 hours. After cooling, 500 ml of a 0.5N solution of HCl are added, the organic phase is decanted and dried over magnesium sulfate and the solvent is evaporated off under vacuum. The solid obtained is taken up with 200 ml of anhydrous THF, the mixture is filtered and the filtrate is then cooled to -5° C. 160 ml of a 1M solution of lithium aluminum hydride in THF are then added slowly and the mixture is stirred for 16 hours, the temperature being allowed to rise to RT. The reaction mixture is cooled to 0° C. and 5.5 ml of water, 18 ml of a 15% solution of NaOH and 5.5 ml of water are added successively. The mineral salts are filtered off and the filtrate is evaporated under vacuum to give the expected product after distillation under reduced pressure. B.p.=104° C. under 1.5 Pa.

reactant | methyl trifluoromethylsulfonate | 25 ml | FC(F)(F)S(=O)(=O)OC | C2H3F3O3S
reactant | diethyl 3-hydroxyglutarate | 30 g | OC(CC(=O)OCC)CC(=O)OCC | C9H16O5
reactant | 2,6-di-tert-butylpyridine | 33 ml | C(C)(C)(C)C1=NC(=CC=C1)C(C)(C)C | C13H21N
reactant | HCl | Cl | ClH
solvent | DCM | 500 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 3-Methoxypentane-1,5-diol | COC(CCO)CCO | C6H14O3
